### ISSUE TITLE
Erdős 33: `variants.one_mem_lowerBounds` states an existential, not the lower bound its name and docstring describe

### ISSUE THREAD

**Issue by Kuberwastaken** [google-deepmind/formal-conjectures#4978]
## Summary

`erdos_33.variants.one_mem_lowerBounds` is named and documented as a lower bound
on the infimum, but it is stated as an existential. As written it is satisfied by
`A = ℕ` and says nothing about the infimum.

https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/ErdosProblems/33.lean#L45-L52

```lean
/--
Erdos observed that this value is finite and > 1.
-/
@[category research solved, AMS 11]
theorem erdos_33.variants.one_mem_lowerBounds : ∃ A, AdditiveBasisCondition A ∧
    1 < Filter.atTop.limsup (fun N => (A ∩ Icc 1 N).ncard / √N) := by
  sorry
```

The name says `1 ∈ lowerBounds` and the docstring says "this value … > 1", i.e. a
statement about the infimum taken over *all* admissible `A` — a `∀ A` claim. The
statement is `∃ A`.

## Trivial proof

Take `A = ℕ`.

- `AdditiveBasisCondition ℕ` holds: for every `k`, `k = k + 0 ^ 2` with `k ∈ ℕ`.
- `(ℕ ∩ Icc 1 N).ncard = N`, so the limsup is `limsup (N / √N) = limsup √N = ⊤ > 1`.

So the declaration holds for a reason that has nothing to do with Erdős's
observation: it exhibits one wasteful basis rather than bounding every basis from
below. Any `A` of positive density does the same.

**The underlying mathematics is unaffected.** Erdős's observation — that the
infimum in `erdos_33` is finite and exceeds `1` — is untouched by this report and
remains correctly attributed; it is simply not what this declaration encodes.

## Suggested fix

State the intended lower bound, matching the `⨅` used by `erdos_33` and
`variants.vanDoorn` in the same file:

```lean
theorem erdos_33.variants.one_mem_lowerBounds :
    1 < ⨅ A : {A : Set ℕ | AdditiveBasisCondition A}, Filter.atTop.limsup (fun N =>
      (A.1 ∩ Icc 1 N).ncard / (√N : EReal))
```

or literally `1 ∈ lowerBounds {…}` if that phrasing is preferred. The finiteness
half of the docstring ("this value is finite") is likewise not currently asserted
anywhere.

## Relationship to the C₅[K₄] campaign

Found while auditing declarations for agreement between their names/docstrings and
their statements. Full derivation and duplicate search:

https://github.com/Kuberwastaken/c5-k4/blob/214325f5962530512b32f31e9e3f63648496f886/results/expansion/live-search-2026-08-15/erdos-faithfulness-lowband.md

## Source/status note

erdosproblems.com/33 is `open`. This declaration is tagged `research solved`, so
the concern is not that an open problem is trivially closed, but that a `solved`
declaration records something much weaker than the result it is named for.

This is **distinct from** the Erdős 33 entry in #4923: that bullet concerns the
headline `erdos_33`, whose entire `⨅ … limsup …` expression can be copied into
`answer` and closed by `rfl`. The present report is about a different declaration
in the same file with a different defect. The headline issue is already tracked
and is not re-reported here.

## AI assistance disclosure

This report was prepared with AI assistance (Claude, Anthropic) for the source
audit and drafting. The submitter reviewed the declaration, the witness, and the
suggested repair, and takes responsibility for the submission.

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else

**Comment by Kuberwastaken** [comment]
## Correction: the `A = ℕ` witness in this report is wrong

I checked this against the elaborated statement and my "Trivial proof" section above does not
hold. Recording it here rather than quietly dropping it.

The claim was that `A = ℕ` satisfies the declaration because `limsup (N/√N) = ⊤ > 1`. That
reasoning would apply if the `limsup` were `EReal`-valued, as it is in `erdos_33` and
`variants.vanDoorn`. In **this** declaration it is not: with no `EReal` ascription the expression
elaborates in `ℝ`, where `Filter.limsup u f = sInf {a | ∀ᶠ n in f, u n ≤ a}` and
`Real.sInf_empty : sInf ∅ = 0`. For `A = ℕ` the ratio is `√N`, which is unbounded, so that set is
empty, the `limsup` is the junk value `0`, and `1 < 0` is false.

Machine-checked (elaborated against this repository's built `FormalConjecturesUtil`;
`#print axioms` reports `[propext, Classical.choice, Quot.sound]` on each — no `sorryAx`):

```lean
-- (a) the limsup in this declaration really is ℝ-valued
example : (fun (A : Set ℕ) => Filter.atTop.limsup (fun N => (A ∩ Icc 1 N).ncard / √N)) =
    (fun (A : Set ℕ) => Filter.atTop.limsup (fun N => ((A ∩ Icc 1 N).ncard : ℝ) / √(N : ℝ))) := rfl

-- (b) `1 < limsup` in ℝ forces the eventual-upper-bound set to be nonempty
theorem lt_limsup_nonempty (u : ℕ → ℝ) (h : (1 : ℝ) < Filter.atTop.limsup u) :
    {a : ℝ | ∀ᶠ n in Filter.atTop, u n ≤ a}.Nonempty := by
  by_contra hc
  rw [Set.not_nonempty_iff_eq_empty] at hc
  rw [Filter.limsup_eq, hc, Real.sInf_empty] at h
  linarith

-- (c) A = ℕ does satisfy the additive basis condition
theorem univ_abc : AdditiveBasisCondition (Set.univ : Set ℕ) :=
  fun k => ⟨0, k, Set.mem_univ k, by ring⟩

-- (d) but its ratio is N/√N = √N
theorem univ_ratio (N : ℕ) :
    (((Set.univ : Set ℕ) ∩ Icc 1 N).ncard : ℝ) / √(N : ℝ) = (N : ℝ) / √(N : ℝ) := by
  rw [Set.univ_inter]
  congr 2
  rw [Set.ncard_eq_toFinset_card']
  simp

-- (e) hence A = ℕ is not a witness for the declaration as stated
theorem univ_not_witness :
    ¬ ((1 : ℝ) < Filter.atTop.limsup
      (fun N : ℕ => (((Set.univ : Set ℕ) ∩ Icc 1 N).ncard : ℝ) / √(N : ℝ))) := by
  intro h
  obtain ⟨a, ha⟩ := lt_limsup_nonempty _ h
  simp only [Set.mem_setOf_eq] at ha
  have hgo : Filter.Tendsto (fun N : ℕ => √(N : ℝ)) Filter.atTop Filter.atTop :=
    Real.tendsto_sqrt_atTop.comp tendsto_natCast_atTop_atTop
  have hbig : ∀ᶠ N : ℕ in Filter.atTop, a < √(N : ℝ) := hgo.eventually_gt_atTop a
  obtain ⟨N, hN1, hN2⟩ := ((ha.and hbig).and (Filter.eventually_gt_atTop 0)).exists
  obtain ⟨hle, hlt⟩ := hN1
  rw [univ_ratio, Real.div_sqrt] at hle
  linarith
```

So the declaration is **not** trivially true, and no set of positive density settles it either —
in `ℝ`, `1 < limsup` implicitly demands that the ratio be eventually bounded above.

## What survives, and it is still a misformalisation

Two things, neither of which needed the witness:

1. **The statement is not what its name or its docstring says.** The name is
   `one_mem_lowerBounds`; the docstring says "this value is finite and > 1", where *this value*
   is the smallest possible value that `erdos_33` asks for. Both describe the infimum — a claim
   about every admissible `A`. The statement is an existential about one `A` and never mentions
   the infimum.

2. **Its remaining content depends on a junk value.** The *finite* half of the docstring is
   carried only by `Real.sInf_empty : sInf ∅ = 0`, as (b) above shows. Nothing asserts finiteness
   directly.

And the history shows this was not the intended statement:

* #631 (original): `1 ∈ lowerBounds { c : ℝ | ∃ (A : Set ℕ), AdditiveBasisCondition A ∧ …= c}` —
  the lower-bound form the name still refers to.
* #1206 *"fix: typing in `erdos_33`"* moved `erdos_33` and `variants.vanDoorn` to `EReal`, its
  commit message giving the reason: *"if `limsup` is infinite, then it gets the junk `0` value in
  `Real`"*. The same commit rewrote this declaration to `∃ A, AdditiveBasisCondition A → 1 < …`
  (*"Can avoid some unnecessary casting … by not using `lowerBounds`"*) and left it in `ℝ`.
* #2226 replaced the `→` by `∧` — the `∃ x, P x → Q` pattern AGENTS.md and
  `ExistsImplicationLinter` flag — keeping the existential and the `ℝ`.

## Note on the source's own wording

For completeness, since it cuts against the fix I am proposing: erdosproblems.com/33 says
*"Erdős observed that there exist $A$ for which the $\limsup$ is finite and $>1$"*, which is
grammatically existential. So there are two defensible repairs — restate as the lower bound the
name and docstring describe, or keep the existential and rename it (and still move it to `EReal`
with an explicit `< ⊤` so that *finite* is asserted rather than inherited from `sInf ∅ = 0`). I
have opened a PR taking the first route, and it says explicitly that I will switch to the second
if maintainers read the source the other way.

Apologies for the incorrect witness in the original report.
